US04670433
3-cyclopropyl-5-isocyanomethyl-1,2,4-oxadiazole
A stirred solution of 3-cyclopropyl-5-formylaminomethyl-1,2,4-oxadiazole (60 mmol) and triethylamine (176 mmol) in CH2Cl2 (100 ml) was charged at 0° C. dropwise with POCl3 (60 mmol). The mixture was then left for 30 min. with stirring at 0° C., whereafter a solution of Na2CO3 (60 mmol) in H2O (50 ml) was added. The mixture was heated to room temperature, whereafter the organic phase was separated, dried and evaporated in vacuo. The residue was treated with ether, decanted, and the solution was evaporated to give the title compound as an oil.

reactant | 3-cyclopropyl-5-formylaminomethyl-1,2,4-oxadiazole | 60 mmol | C1(CC1)C1=NOC(=N1)CNC=O | C7H9N3O2
reactant | triethylamine | 176 mmol | C(C)N(CC)CC | C6H15N
reactant | POCl3 | 60 mmol | O=P(Cl)(Cl)Cl | Cl3OP
reactant | Na2CO3 | 60 mmol | C(=O)([O-])[O-].[Na+].[Na+]
solvent | CH2Cl2 | 100 ml | C(Cl)Cl | CH2Cl2
solvent | H2O | 50 ml | O | H2O
product | 3-cyclopropyl-5-isocyanomethyl-1,2,4-oxadiazole | C1(CC1)C1=NOC(=N1)C[N+]#[C-] | C7H7N3O
